US04028415
Bromine (14.85 g) in acetic acid (200 ml.) was added dropwise to a solution of 1-p-fluorophenyl-1-phenyl-propan-2-one (20 lg.) in acetic acid (200 ml.) at 60° - 70°. After 30 minutes, the reaction mixture was poured on to ice. Isolation through ether in the usual manner gave crude 3-bromo-1-p-fluorophenyl-1-phenyl-propan-2-one (28 g) which was converted by the procedures described in Example 1 to 3-(N-Benzyl,N-methylamino)-1-p-fluorophenyl-1-phenyl-propan-2-ol (38%), m.p. 61° - 62°.

reactant | Bromine | 14.85 g | BrBr | Br2
reactant | 1-p-fluorophenyl-1-phenyl-propan-2-one | FC1=CC=C(C=C1)C(C(C)=O)C1=CC=CC=C1 | C15H13FO
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-1-p-fluorophenyl-1-phenyl-propan-2-one | 28 g | BrCC(C(C1=CC=CC=C1)C1=CC=C(C=C1)F)=O | C15H12BrFO
